US04409229
A mixture of 3.9 g of 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine], Example 4, 3.4 g of dibenzoyl peroxide, 4.0 g of potassium carbonate in 60 ml of benzene is stirred at a temperature of 65°-70° C. for 16 hours before being filtered. The filtrate is washed and dried and the solvent removed in vacuo, leaving a crude oily product. The product is chromatographed through a silica gel column with a methylene chloride eluant to provide 1'-benzoyloxy-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine].

reactant | 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | 3.9 g | C1(=CC=CC=C1)C1C2=C(C=CC=C2)C2(CCNCC2)S1 | C18H19NS
reactant | dibenzoyl peroxide | 3.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 1'-benzoyloxy-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | C(C1=CC=CC=C1)(=O)ON1CCC2(CC1)SC(C1=C2C=CC=C1)C1=CC=CC=C1 | C25H23NO2S
